* Title : diyot karakteristiði

VIN 1 0 200V
.DC VIN -300 200 0.1

R1 2 0 10k
D1 1 2 modn 
.model modn D (IS=5.84n N=1.94 RS=.7017 XTI=3 EG=1.11 CJO=.95p 
+ M=.55 VJ=.75 FC=.5 BV=100 IBV=100u TT=11.07n)



